US04828601
3-Acetyloxy-2-[1-[(5-chlorothien-2-yl)methoxyimino]ethyl]-5-(tetrahydro-2H-thiopyran-3-yl)-cyclohex-2-en-1-one
0.34 g (2.0 mmol) of (5-chlorothien-2-yl)methoxyamine is added to a stirred solution of 0.59 g (2.0 mmol) of 2-acetyl-3-acetyloxy-5-(tetrahydro-2H-thiopyran-3-yl)cyclohex-2-en-1-one in 10 ml of absolute ethanol. After stirring overnight at room temperature, the reaction mixture is concentrated under reduced pressure. The resulting residue is diluted with 25 ml of dichloromethane and washed twice with 10 ml of saturated sodium chloride solution. The washed extract is then dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The product can then be purified by column chromatography employing tetrahydrofuran-hexane (1:2 by volume) as eluent to afford the title compound.

reactant | (5-chlorothien-2-yl)methoxyamine | 2.0 mmol, 0.34 g | ClC1=CC=C(S1)CON | C5H6ClNOS
reactant | 2-acetyl-3-acetyloxy-5-(tetrahydro-2H-thiopyran-3-yl)cyclohex-2-en-1-one | 2.0 mmol, 0.59 g | C(C)(=O)C=1C(CC(CC1OC(C)=O)C1CSCCC1)=O | C15H20O4S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-Acetyloxy-2-[1-[(5-chlorothien-2-yl)methoxyimino]ethyl]-5-(tetrahydro-2H-thiopyran-3-yl)-cyclohex-2-en-1-one | C(C)(=O)OC1=C(C(CC(C1)C1CSCCC1)=O)C(C)=NOCC=1SC(=CC1)Cl | C20H24ClNO4S2
